US06720338B2
2-(phenylsulfanyl)aniline
A room temperature solution of 2-fluoronitrobenzene (1.41 g, 10.0 mmol), thiophenol (1.21 g, 11.0 mmol), and triethylamine (2 mL) in THF (20 mL) was stirred for 16 hours, treated with 3M HCl (10 mL) and tin(II) chloride dihydrate (11.4 g, 50 mmol), stirred for 4 hour, and extracted with ethyl acetate (50 mL). The combined extracts were dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 50% hexanes/dichloromethane to provide the desired product. MS (DCI) m/e 202 (M+H)+.

reactant | 2-fluoronitrobenzene | 10.0 mmol, 1.41 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | thiophenol | 11.0 mmol, 1.21 g | C1(=CC=CC=C1)S | C6H6S
reactant | HCl | 3M, 10 mL | Cl | ClH
reactant | tin(II) chloride dihydrate | 50 mmol, 11.4 g | O.O.[Sn](Cl)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 2-(phenylsulfanyl)aniline | C1(=CC=CC=C1)SC1=C(N)C=CC=C1 | C12H11NS
